US04895860
Step (5) Preparation of 4-[(1-Chloro-3,4-dihydro-2-naphthalenyl)methyl]-3H-1,2,3,5-oxathiadiazole 2-Oxide
Thionyl chloride (0.55 mL, 7.5 mmol) was added dropwise to a mixture of N'-hydroxy-(1-chloro-3,4-dihydro-2-naphthalenyl)ethanimidamide (1.6 g, 6.8 mmol) and pyridine (1.10 mL, 13.6 mmol) in dry CH2Cl2 (25 mL) at 0° C. After the addition, the reaction was concentrated under reduced pressure, diluted with water (50 mL), and extracted with ether (3×50 mL). The organics were washed with brine, dried (MgSO4), and concentrated to obtain a black froth. The froth was chromatographed on silica gel (twice: eluant 4% MeOH/CH3Cl2 and eluant 2% MeOH/CH2Cl2) to yield 612 mg (32%) of an off-white solid, m.p. 90.5°-91.5° C.

reactant | Thionyl chloride | 7.5 mmol, 0.55 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N'-hydroxy-(1-chloro-3,4-dihydro-2-naphthalenyl)ethanimidamide | 6.8 mmol, 1.6 g | ON=C(CC1=C(C2=CC=CC=C2CC1)Cl)N | C12H13ClN2O
reactant | pyridine | 13.6 mmol, 1.10 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-[(1-Chloro-3,4-dihydro-2-naphthalenyl)methyl]-3H-1,2,3,5-oxathiadiazole 2-Oxide | 612 mg, 32% | ClC1=C(CCC2=CC=CC=C12)CC=1NS(ON1)=O | C12H11ClN2O2S
